Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female who fell at home while alone
 
Past Medical History:
Hx Cancer: bladder, thyroid, skin, and lung,
Hx Cardiac Disorders: A-FIB (not on Coumadin)
Hypertension,
"car accident"

- Lap appendectomy
- hysterectomy / BSO
- Right lung lobectomy for lung cancer in ___ ___
- Right thyroid lobectomy
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
General: alert, oriented, appropriate
CV: rrr with periods of afib
pulm: nonlabored breathing on room air
abd: soft, nontender, nondistended
extremities: wwp; small superficial wound on left leg
 
Pertinent Results:
___ 01:16PM   ___ PO2-18* PCO2-42 PH-7.40 TOTAL CO2-27 
BASE XS-0 INTUBATED-NOT INTUBA
___ 01:16PM   GLUCOSE-118* LACTATE-1.9 NA+-141 K+-4.3 
CL--101
___ 01:04PM   UREA N-19 CREAT-1.0
___ 01:04PM   estGFR-Using this
___ 01:04PM   LIPASE-19
___ 01:04PM   ASA-NEG ETHANOL-NEG ACETMNPHN-8* bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 01:04PM   WBC-11.4* RBC-3.87* HGB-12.0 HCT-36.8 MCV-95 
MCH-31.0 MCHC-32.6 RDW-13.2 RDWSD-46.1
___ 01:04PM   PLT COUNT-170
___ 01:04PM   ___ PTT-25.7 ___
___ 01:04PM   ___
 
Brief Hospital Course:
Ms. ___ was admitted to ___ ___ after a mechanical 
fall for which she sustained trace Right pneumothorax, fractures 
of T4-T6 Transverse processes/posterior Right ___ ribs, Right 
lung contusion, Left shoulder abrasion. She was admitted for 
pain control and observation. Overnight, she experienced some 
confusion, and was not oriented to place. On ___, a 
urinalysis resulted that demonstrated a urinary tract infection, 
for which she was placed on macrobid 5 day course (discharged 
with prescription). Also on ___, geriatrics were consulted, 
and recommended holding her oxybutynin given its anticholinergic 
properties, and recommended strong follow up with PCP. She was 
periodically bradycardic to the ___, secondary to the cardiac 
medications she takes at home. Her cardiac medications were 
decreased while she was an inpatient. Cardiologist Dr. 
___ at ___ was called, who recommended 
discharging the patient on these decreased medications, with 
follow-up in his office. The patient was stable and safe for 
discharge to home with ___ on ___, with appropriate 
prescriptions given, and follow-up appointments and instructions 
given. 
 
Medications on Admission:
- Diltiazem XL 120'
- Metoprolol XL 50'
- Digoxin 0.125mg QD
- Levothyroxine, dose unknown
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Diltiazem 30 mg PO QID 
RX *diltiazem HCl 30 mg 1 tablet(s) by mouth four times a day 
Disp #*20 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
5.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*12 Tablet Refills:*0 
6.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 5 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
every twelve (12) hours Disp #*8 Capsule Refills:*0 
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
8.  Digoxin 0.125 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right pneumothorax, fractures of T4-T6 TP/posterior R ___ ribs, 
Right lung contusion, Left shoulder abrasion. You are now stable 
for discharge. 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, you were admitted to ___ on ___ after 
falling in your home and sustaining a right pneumothorax, 
fractures of T4-T6 TP/posterior R ___ ribs, Right lung 
contusion, Left shoulder abrasion. You are now stable for 
discharge. 

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___